US06166006
In DMF (50 ml) was dissolved methyl 5-nitrosalicylate (1.97 g, 10.0 mmol), and to the mixture were added ethyl 4-bromobutyrate (1.57 ml, 11.0 mmol) and potassium carbonate (2.76 g, 20.0 mmol). The mixture was stirred at 110° C. for 5 hours, and the mixture was concentrated under reduced pressure. To the residue was added ethyl acetate, and the mixture was washed with water and 10% potassium carbonate solution. The organic layer was dried with anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified with column chromatography (silica gel 30 g, ethyl acetate/hexane=1/5→1/3), and the desired fraction was concentrated under reduced pressure to give ethyl 4-(2-methoxycarbonyl-4-nitrophenoxy)butyrate (2.51 g, 8.06 mmol, 81%).

reactant | methyl 5-nitrosalicylate | 10.0 mmol, 1.97 g | [N+](=O)([O-])C1=CC=C(C(C(=O)OC)=C1)O | C8H7NO5
reactant | ethyl 4-bromobutyrate | 11.0 mmol, 1.57 ml | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 20.0 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | ethyl 4-(2-methoxycarbonyl-4-nitrophenoxy)butyrate | 8.06 mmol, 2.51 g, 81% | COC(=O)C1=C(OCCCC(=O)OCC)C=CC(=C1)[N+](=O)[O-] | C14H17NO7
